US07393865B2
To a cooled solution (−78° C.) of 2-(2-benzyloxy-ethyl)-3-bromo-benzo[b]thiophene (9.6 g, 27.6 mmol) in anhydrous THF (200 mL), TMEDA (4.14 mL, 27.6 mmol) was added and the mixture was stirred for 5 min. After dropwise addition of sec-BuLi (23.3 mL, 30.3 mmol), while keeping the temperature below −60° C., the mixture was stirred for an additional 30 min at −78° C. A solution of 2-cyanopyridine (3.16 g, 30.34 mmol) in toluene (30 mL) was added and after stirring for 30 min at −78° C. the reaction was quenched by dropwise addition of 6N HCl (66 mL) in MeOH (134 mL), while keeping the temperature below −60° C. After stirring overnight while allowing the mixture to reach room temperature, the mixture was concentrated in vacuo. The residue was dissolved in dichloromethane (100 mL) and NH4OH (100 mL) was added. The organic layer was separated and the aqueous layer was further extracted with dichloromethane. The combined organic layers were dried (Na2SO4), concentrated and subjected to silica gel column chromatography (eluent: EtOAc/Hex=1/4 up to EtOAc/Hex=1/1) to afford 4.2 g of [2-(2-benzyloxy-ethyl)-benzo[b]thiophen-3-yl]-pyridin-2-yl-methanone (41% yield).

reactant | 2-(2-benzyloxy-ethyl)-3-bromo-benzo[b]thiophene | 27.6 mmol, 9.6 g | C(C1=CC=CC=C1)OCCC1=C(C2=C(S1)C=CC=C2)Br | C17H15BrOS
reactant | TMEDA | 27.6 mmol, 4.14 mL | CN(C)CCN(C)C | C6H16N2
reactant | sec-BuLi | 30.3 mmol, 23.3 mL | [Li]C(C)CC
reactant | 2-cyanopyridine | 30.34 mmol, 3.16 g | C(#N)C1=NC=CC=C1 | C6H4N2
reactant | THF | 200 mL | C1CCOC1 | C4H8O
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | [2-(2-benzyloxy-ethyl)-benzo[b]thiophen-3-yl]-pyridin-2-yl-methanone | 4.2 g, 41% yield | C(C1=CC=CC=C1)OCCC1=C(C2=C(S1)C=CC=C2)C(=O)C2=NC=CC=C2 | C23H19NO2S
